US06441005B1
5-(S)-Azidomethyl-3-[4′-methylsulfinyl-3′-fluorophenyl]oxazolidine-2-one
m-Chloroperoxybenzoic acid (77%, 0.079 g, 0.354 mmol) was added portionwise with stirring to a solution of 5-(S)-azidomethyl-3-[4′-methylthio-3′-fluorophenyl]oxazolidine-2-one (0.100 g, 0.354 mmol) in DCM (4 ml) at 0° C. The mixture was allowed to warm up to r.t. over 2 h. The mixture was washed with aq. saturated sodium bicarbonate, brine, dried (MgSO4), and evaporated to give product as a white solid (0.100 g, 95%). MS (m/z): [M+H]+=299.

reactant | m-Chloroperoxybenzoic acid | 0.354 mmol, 0.079 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 5-(S)-azidomethyl-3-[4′-methylthio-3′-fluorophenyl]oxazolidine-2-one | 0.354 mmol, 0.100 g | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)SC)F | C11H11FN4O2S
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | 5-(S)-Azidomethyl-3-[4′-methylsulfinyl-3′-fluorophenyl]oxazolidine-2-one | 0.100 g, 95% | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)S(=O)C)F | C11H11FN4O3S
